* C:\Users\banru\Documents\workspace\Contactless\LTspice\SoundSim.asc
V1 N001 0 PULSE(0 3.3 0 1u 1u 1.28m 2.55m)
R1 out N001 R
C1 out 0 C
.wave output.wav 16 44.1k V(out)
.tran 1
.backanno
.end
